US09402833B2
1M aq. solution of LiOH.H2O (0.4 mL) was added to a stirred solution of ethyl 5-((2R,4R)-4-((tert-butyldimethylsilyl)oxy)-2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxylate (Isomer-I) (Int-60) (0.07 g, 0.14 mmol) in EtOH (5 mL) and the stirring was continued at 90° C. for 8 h. The reaction mixture was concentrated under reduced pressure to afford the crude product. The crude product thus obtained was diluted with cold water, acidified with citric acid solution, filtered the solid precipitated to afford 5-((2R,4R)-2-(2,5-difluorophenyl)-4-hydroxypyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxylic acid (Int-62) as yellow solid. MS (ESI): m/z 360(M+H).

reactant | LiOH.H2O | 0.4 mL | O[Li].O
reactant | ethyl 5-((2R,4R)-4-((tert-butyldimethylsilyl)oxy)-2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxylate | 0.14 mmol, 0.07 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@@H](N(C1)C1=CC=2N(C=C1)N=CC2C(=O)OCC)C2=C(C=CC(=C2)F)F | C26H33F2N3O3Si
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | EtOH | 5 mL | CCO | C2H6O
solvent | water | O | H2O
product | 5-((2R,4R)-2-(2,5-difluorophenyl)-4-hydroxypyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxylic acid | FC1=C(C=C(C=C1)F)[C@@H]1N(C[C@@H](C1)O)C1=CC=2N(C=C1)N=CC2C(=O)O | C18H15F2N3O3
